US07491718B2
tert-butyl 4-(cyanoacetyl)-1-piperazinecarboxylate
A mixture of 1-tert-butoxycarbonylpiperazine (7.44 g, 40 mmol) and ethyl cyanoacetate (8.53 mL, 80 mmol) was gently stirred in 20 mL of toluene at 90° C. for 2 days. The mixture was concentrated and purified by silica gel column chromatography, eluting with 30% ethyl acetate in n-hexane to provide the title compound (3.68 g). MS (ESI(−)) m/e 252 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 3.41 (m, 4H), 3.27-3.35 (m, 4H), 2.72 (m, 2H), 2.38 (m, 2H), 1.41 (s, 9H).

reactant | 1-tert-butoxycarbonylpiperazine | 40 mmol, 7.44 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | ethyl cyanoacetate | 80 mmol, 8.53 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(cyanoacetyl)-1-piperazinecarboxylate | 3.68 g | C(#N)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C12H19N3O3
